US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]-3-methylimidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide
To a solution of 1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid (56.7 mg, 0.229 mmol) and N-[6-(4-amino-2-fluorophenoxy)-3-methylimidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (60 mg, 0.176 mmol) in N,N-dimethylformamide (1 mL) were added N,N-diisopropylethylamine (61 μL, 0.352 mmol) and HATU (87 mg, 0.229 mmol), and the mixture was stirred at room temperature for 17 hr. Ethyl acetate and saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate alone) to give a yellow oil. The obtained oil was dissolved in ethyl acetate (1 mL) and left standing at room temperature for 17 hr. The precipitated solid was collected by filtration, washed with diethyl ether and collected by filtration to give the title compound (76 mg, 75%) as a white solid.

reactant | 1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.229 mmol, 56.7 mg | FC1=CC=C(C=C1)N1C(C(=CC=C1C)C(=O)O)=O | C13H10FNO3
reactant | N-[6-(4-amino-2-fluorophenoxy)-3-methylimidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.176 mmol, 60 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C(=C(N3)NC(=O)C3CC3)C)C=C1)F | C18H17FN4O2
reactant | N,N-diisopropylethylamine | 0.352 mmol, 61 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.229 mmol, 87 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | N-[4-({2-[(cyclopropylcarbonyl)amino]-3-methylimidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide | 76 mg, 75% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C(=CC2)C)C2=CC=C(C=C2)F)=O)F)C1C | C31H25F2N5O4
